US07253165B2
Synthesis of (2,4-difluoro-phenyl)-(4-methoxy-phenyl)-methanone oxime (Scheme I, Compound 9 and Scheme V, Compound 5)
Mix (2,4-difluoro-phenyl)-(4-methoxy-phenyl)-methanone (257 g, 1.04 mol), hydroxylamine hydrochloride (143.9 g, 2.07 mol) and pyridine (1.29 L, 15.89 mol), under a nitrogen atmosphere and heat (100° C.). Cool reaction mixture to room temperature and concentrate to an oily residue. Partition residue between ethyl acetate (2700 mL) and water (1600 mL). Wash organic layer with 1 N HCl solution (2×800 mL), water (2×1 L), saturated sodium chloride (1 L), dry (MgSO4) and concentrate to give the title compound as an oil. (270.84 g, 99% Yield): 1H NMR (CDCl3, 200 MHz) δ 3.8-3.82 (2 s, 3H), 6.8-7.0 (m, 3H), 7.2 (m, 1H), 7.4 (d, 2H), 7.5 (d, 1H), 8.4-8.6 (br s, 1H). Purity by LC/MS (APCl)=100% area, [M+H]+=264 m/e.

reactant | (2,4-difluoro-phenyl)-(4-methoxy-phenyl)-methanone | 1.04 mol, 257 g | FC1=C(C=CC(=C1)F)C(=O)C1=CC=C(C=C1)OC | C14H10F2O2
reactant | hydroxylamine hydrochloride | 2.07 mol, 143.9 g | Cl.NO
reactant | pyridine | 15.89 mol, 1.29 L | N1=CC=CC=C1 | C5H5N
product | (2,4-difluoro-phenyl)-(4-methoxy-phenyl)-methanone oxime | 99% Yield | FC1=C(C=CC(=C1)F)C(=NO)C1=CC=C(C=C1)OC | C14H11F2NO2
